US03944410
1-Trifluoromethyl-3-(3'-methylphenyl)-3-hydroxyurea (11.7 grams; 0.05 mol) is dissolved in dioxane (75 ml) and mixed with 2N aqueous sodium hydroxide (30 ml). Ethyl chloroformate (5.7 ml; 0.06 mol) is then added dropwise to the mixture with stirring, resulting in the formation of a precipitate. The precipitate is recovered by filtration, is washed and dried to yield 2-(3'-methylphenyl)-4-trifluoromethyl-1,2,4-oxadiazolidine-3,5-dione.

reactant | 1-Trifluoromethyl-3-(3'-methylphenyl)-3-hydroxyurea | 0.05 mol, 11.7 grams | FC(NC(=O)N(O)C1=CC(=CC=C1)C)(F)F | C9H9F3N2O2
reactant | sodium hydroxide | 2N, 30 ml | [OH-].[Na+]
reactant | Ethyl chloroformate | 0.06 mol, 5.7 ml | ClC(=O)OCC | C3H5ClO2
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 2-(3'-methylphenyl)-4-trifluoromethyl-1,2,4-oxadiazolidine-3,5-dione | CC=1C=C(C=CC1)N1OC(N(C1=O)C(F)(F)F)=O | C10H7F3N2O3
